US04587250
Methyl (3R)-8-methyl-1-thia-4-azaspiro[4.5]decane-3-carboxylate hydrochloride
34.3 g of L-cysteine methyl ester hydrochloride and 15.4 ml of 4-methylcyclohexanone are suspended in 70 ml of methanol and the suspension is refluxed for 3 hours. The suspension is concentrated to dryness under reduced pressure and the residue is recrystallized from isopropanol/methanol to give 25 g of colorless crystals of melting point 180° C.

reactant | L-cysteine methyl ester hydrochloride | 34.3 g | Cl.COC([C@@H](N)CS)=O
reactant | 4-methylcyclohexanone | 15.4 ml | CC1CCC(CC1)=O | C7H12O
solvent | methanol | 70 ml | CO | CH4O
product | Methyl (3R)-8-methyl-1-thia-4-azaspiro[4.5]decane-3-carboxylate hydrochloride | 25 g | Cl.CC1CCC2(N[C@@H](CS2)C(=O)OC)CC1 | InChI=1S/C11H19NO2S.ClH/c1-8-3-5-11(6-4-8)12-9(7-15-11)10(13)14-2;/h8-9,12H,3-7H2,1-2H3;1H/t8?,9-,11?;/m0./s1
